US04868321
To a stirred solution of 1.0 g (0.0034 mole) of 1-(5-amino-4-chloro-2-fluorophenyl)-1,4-dihydro-4-(3- fluoropropyl)-5H-tetrazol-5-one in 30 ml of methylene chloride was added 0.20 g (0.0017 mole) of 4-(N,N-dimethyl)aminopyridine, 0.50 g (0.0017 mole) of trifluoromethylsulfonyl anhydride, and an additional 0.20 g (0.0017 mole) of 4-(N,N-dimethyl)aminopyridine. This mixture was stirred at room temperature for 0.5 hour. The resultant solution was extracted with 100 ml of a dilute, aqueous, sodium hydroxide solution. The extract was washed with 50 ml of methylene chloride and was neutralized with concentrated hydrochloric acid. This aqueous solution was extracted several times with ethyl acetate and the extracts were combined. The combined extract was dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated under reduced pressure to leave a thick oil. This oil was purified by column chromatography on silica gel, eluted with methylene chloride'acetone (95:5) to yield 1.0 g of 1-[4-chloro- 2-fluoro-5-(N-trifluoromethylsulfonylamino)phenyl]-1,4-dihydro-4-(3-fluoropropyl-5H-tetrazol-5-one as a solid, m.p. 111°-113° C.

reactant | 1-(5-amino-4-chloro-2-fluorophenyl)-1,4-dihydro-4-(3- fluoropropyl)-5H-tetrazol-5-one | 0.0034 mole, 1.0 g | NC=1C(=CC(=C(C1)N1N=NN(C1=O)CCCF)F)Cl | C10H10ClF2N5O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethyl)aminopyridine | 0.0017 mole, 0.20 g | CN(C)C1=CC=NC=C1 | C7H10N2
catalyst | 4-(N,N-dimethyl)aminopyridine | 0.0017 mole, 0.20 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 3-fluoropropyl-5H-tetrazol-5-one | FCCCN1NN=NC1=O | C4H7FN4O
